US07465836B2
(2-(Benzo[c][1,2]oxaborol-1(3H)-yl)phenyl)-N,N-dimethylmethanamine (30)
To a solution of (2-(benzo[c][1,2]oxaborol-1(3H)-yl)phenyl)methanol (300 mg, 1.34 mmol) in dichloromethane (10 mL) were added sequentially triethylamine (0.373 mL, 2.7 mmol) and methanesulfonyl chloride (0.125 mL, 1.60 mmol) at 0° C. After stirring for 30 min, dimethylamine (2M in tetrahydrofuran; 3 mL) was added, and the mixture was sirred for another 30 min. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (1:2 hexane/ethyl acetate) followed by recrystallization from diisopropyl ether/hexane to give the title compound (185 mg, 55%): 1H NMR (300 MHz, DMSO-d6) δ 2.25 (s, 3H), 2.41 (s, 3H), 4.09 (br d, J=8.5 Hz, 2H), 4.87 (d, J=13.2 Hz, 1H), 5.05 (d, J=13.2 Hz, 1H), 7.0-7.3 (m, 8H); ESI-MS m/z 252 (positive); C16H18BNO=251

reactant | (2-(benzo[c][1,2]oxaborol-1(3H)-yl)phenyl)methanol | 1.34 mmol, 300 mg | B1(OCC2=C1C=CC=C2)C2=C(C=CC=C2)CO | C14H13BO2
reactant | triethylamine | 2.7 mmol, 0.373 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.60 mmol, 0.125 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylamine | 2M, 3 mL | CNC | C2H7N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (2-(Benzo[c][1,2]oxaborol-1(3H)-yl)phenyl)-N,N-dimethylmethanamine | 185 mg, 55% | B1(OCC2=C1C=CC=C2)C2=C(C=CC=C2)CN(C)C | C16H18BNO
